US08629158B2
a) 2-Chloro-4-(pyridin-2-ylmethoxy)pyridine
Pyridin-2-ylmethanol (3.00 g, 27.5 mmol), 2-chloro-4-iodopyridine (6.0 g, 25 mmol), cesium carbonate (10.6 g, 32.5 mmol), CuI (0.95 g, 5.0 mmol) and 1,10-phenanthroline (0.90 g, 5.0 mmol) were stirred in toluene (15 mL) and purged with a nitrogen stream for 10 minutes. The mixture was heated to 105° C. for 16 h, allowed cool and filtered through a silica plug eluting with ethyl acetate. The filtrate was concentrated, and the residue was purified by column chromatography (80 g ISCO column column eluting with ethyl acetate/hexanes; gradient 100% hexanes to 100% ethyl acetate) to provide the title compound (4.1 g, 74%) as a white solid: ESI MS m/z 221 [M+H]+.

reactant | Pyridin-2-ylmethanol | 27.5 mmol, 3.00 g | N1=C(C=CC=C1)CO | C6H7NO
reactant | 2-chloro-4-iodopyridine | 25 mmol, 6.0 g | ClC1=NC=CC(=C1)I | C5H3ClIN
reactant | cesium carbonate | 32.5 mmol, 10.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,10-phenanthroline | 5.0 mmol, 0.90 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 5.0 mmol, 0.95 g | [Cu]I
product | 2-Chloro-4-(pyridin-2-ylmethoxy)pyridine | 4.1 g, 74% | ClC1=NC=CC(=C1)OCC1=NC=CC=C1 | C11H9ClN2O
